US05414002
At room temperature and under normal pressure, 7 g (18 mmol) of 6-benzyloxy-4-methoxymethyl-β-carboline-3-carboxylic acid isopropyl ester is hydrogenated in 600 ml of ethanol with 7 g of palladium/carbon (10%) as well as hydrogen for 8.5 hours. After the mixture has been removed from the catalyst by filtration, it is concentrated, thus obtaining 4.8 g (90% yield) of 6-hydroxy-4-methoxymethyl-β-carboline-3-carboxylic acid isopropyl ester which is further reacted without any additional purification.

reactant | 6-benzyloxy-4-methoxymethyl-β-carboline-3-carboxylic acid isopropyl ester | 18 mmol, 7 g | C(C)(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1COC)OCC1=CC=CC=C1 | C24H24N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 600 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 7 g | [Pd] | Pd
product | 6-hydroxy-4-methoxymethyl-β-carboline-3-carboxylic acid isopropyl ester | 4.8 g, 90% yield | C(C)(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1COC)O | C17H18N2O4
